US06506778B2
a) Ethyl 6-(4-Acetylamino-2,6-dichlorophenoxy)hexanoate
13.3 ml (74.9mmol) of ethyl 6-bromohexanoate and 52.1 g (160 mmol) of cesium carbonate were added to a solution of 15.0 g (68.1 mmol) of N-(3,5-dichloro-4-hydroxyphenyl)acetamide in 300 ml of acetone. The suspension was boiled under reflux for 8 hours, and then 600 ml of water were added. The mixture was extracted twice with 400 ml of dichloromethane and with 400 ml of MTB ether each time. The combined organic phases were washed with water and concentrated in a rotary evaporator. The product was employed in the next step without purification. Crude yield was 30 g.

reactant | ethyl 6-bromohexanoate | 74.9mmol, 13.3 ml | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | cesium carbonate | 160 mmol, 52.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-(3,5-dichloro-4-hydroxyphenyl)acetamide | 68.1 mmol, 15.0 g | ClC=1C=C(C=C(C1O)Cl)NC(C)=O | C8H7Cl2NO2
reactant | water | 600 ml | O | H2O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | Ethyl 6-(4-Acetylamino-2,6-dichlorophenoxy)hexanoate | C(C)(=O)NC1=CC(=C(OCCCCCC(=O)OCC)C(=C1)Cl)Cl | C16H21Cl2NO4
